US08835458B2
<Step 1> Preparation of (S)-benzyl 2-(tert-butoxycarbonylamino)-3,3-dimethylbutanoic acid
Boc-Tle-OH (4.8 g, 22.3 mmol) was dissolved in dichloromethane (50 mL), and EDCI (4.3 g, 44.6 mmol), DMAP (0.6 g, 4.46 mmol), DIPEA (16 mL, 89.2 mmol), and benzyl alcohol (5 mL, 44.6 mmol) were added dropwise. The mixture was stirred at room temperature for 12 hours. The mixture was washed several times with an aqueous solution of 5% citric acid. The organic layer was dried over sodium sulfate, and filtered and distilled under reduced pressure to obtain the title compound as yellow oil (6.7 g, 99%).

reactant | Boc-Tle-OH | 22.3 mmol, 4.8 g | N([C@@H](C(C)(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | EDCI | 44.6 mmol, 4.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIPEA | 89.2 mmol, 16 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzyl alcohol | 44.6 mmol, 5 mL | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | DMAP | 4.46 mmol, 0.6 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (S)-benzyl 2-(tert-butoxycarbonylamino)-3,3-dimethylbutanoic acid | 6.7 g, 99% | C(C1=CC=CC=C1)[C@@](C(=O)O)(C(C)(C)C)NC(=O)OC(C)(C)C | C18H27NO4
